US07078537B2
The procedure given in Example 2 except for the formation of salts was followed using 3-bromo-1-(tert-butoxycarbonyl)amino-1-phenyl propane and piperidine as reactants, instead of d-1-bromo-2-(tert-butoxycarbonyl)amino-3-phenyl propane and hexamethyleneimine to give 1-Phenyl-3-(1-piperidinyl)-n-propylamine.

reactant | 3-bromo-1-(tert-butoxycarbonyl)amino-1-phenyl propane | BrCCC(C1=CC=CC=C1)NC(=O)OC(C)(C)C | C14H20BrNO2
reactant | piperidine | N1CCCCC1 | C5H11N
product | 1-Phenyl-3-(1-piperidinyl)-n-propylamine | C1(=CC=CC=C1)C(CCN1CCCCC1)N | C14H22N2
